US08034124B2
Step 1: Synthesis of 1,2-diethyl-5-hydroxy-4-[(E)-pyridin-3-yldiazenyl]-1,2-dihydro-3H-pyrazol-3-one
60.2 mg of 3-aminopyridine are solubilized in 0.25 ml of 6N hydrochloric acid. The medium is cooled to zero degrees, and then a solution of 44.2 mg of sodium nitrite in 0.25 ml of water is added over 3 minutes. The medium is then kept stirring for 10 minutes at a temperature of between 0 and 5° C. A mixture of 100 mg of 5-amino-1,2-diethyl-1,2-dihydro-3H-pyrazol-3-one, 0.5 ml of ethanol, 0.5 ml of water and 3 equivalents of sodium acetate is added to the reaction medium.

reactant | 3-aminopyridine | 60.2 mg | NC=1C=NC=CC1 | C5H6N2
reactant | sodium nitrite | 44.2 mg | N(=O)[O-].[Na+]
reactant | 5-amino-1,2-diethyl-1,2-dihydro-3H-pyrazol-3-one | 100 mg | NC1=CC(N(N1CC)CC)=O | C7H13N3O
reactant | sodium acetate | 3 equivalents | C(C)(=O)[O-].[Na+]
solvent | hydrochloric acid | 6N, 0.25 ml | Cl | ClH
solvent | water | 0.25 ml | O | H2O
solvent | water | 0.5 ml | O | H2O
solvent | ethanol | 0.5 ml | C(C)O | C2H6O
product | 1,2-diethyl-5-hydroxy-4-[(E)-pyridin-3-yldiazenyl]-1,2-dihydro-3H-pyrazol-3-one | C(C)N1N(C(C(=C1O)\N=N\C=1C=NC=CC1)=O)CC | C12H15N5O2
